US09388140B2
To a stirred solution of 4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzoic acid (63 mg, 0.2 mmol) which was prepared according to intermediate example 4-1 in THF (5 mL), at rt was added HATU (85 mg, 0.22 mmol), DIPEA (29 mg, 0.22 mmol) and cyclopropylamine (12.8 mg, 0.22 mg) in one portion. After stirring for 4 h, the solution was evaporated and the remaining solid was purified by flash chromatography to yield N-cyclopropyl-4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzamide as an off-white solid (24 mg, 33.8%).

reactant | 4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzoic acid | 0.2 mmol, 63 mg | CC(CNC1=CC=CC=2N(C=NC21)C2=CC=C(C(=O)O)C=C2)C | C18H19N3O2
reactant | HATU | 0.22 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.22 mmol, 29 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 12.8 mg | C1(CC1)N | C3H7N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-4-{4-[(2-methylpropyl)amino]-1H-benzimidazol-1-yl}benzamide | 24 mg, 33.8% | C1(CC1)NC(C1=CC=C(C=C1)N1C=NC2=C1C=CC=C2NCC(C)C)=O | C21H24N4O
